US05288896
N-[1-[3,5-bis(1,1 dimethylethyl)-4-hydroxyphenyl]ethyl]- N-hydroxyurea;
[[[1-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethyl]hydroxyamino]-thioxomethyl]carbamic acid, ethyl ester, acetate;

reactant | [[[1-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethyl]hydroxyamino]-thioxomethyl]carbamic acid, ethyl ester | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C)N(O)C(=S)NC(OCC)=O | C20H32N2O4S
reactant | acetate | C(C)(=O)[O-]
product | N-[1-[3,5-bis(1,1 dimethylethyl)-4-hydroxyphenyl]ethyl]- N-hydroxyurea | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C)N(C(=O)N)O | C17H28N2O3
